US05102897
3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid, methyl ester
A dichloromethane (50 mL) solution of 13.6 g (106.5 mmol, 1.1 equiv.) of methyloxalylchloride is added over 15 minutes to a 0° C. stirred slurry of 14.2 g (106.5 mmol, 1.1 equiv.) of AlCl3 in 100 mL of dichloromethane under nitrogen atmosphere. The reaction is stirred at 0° C. for 5 minutes and treated with a dichloromethane (50 mL) solution of 20.0 g (96.9 mmol) of 2,6-di-t-butylphenol over 30 minutes. The reaction is stirred for 3 hours and poured onto 700 mL of ice water and the layers separated. The aqueous layer is extracted with diethyl ether (3×200 mL). The combined organic layers are washed with aqueous 1N HCl (200 mL), water (4×200 mL) and saturated aqueous NaCl, dried over Na2SO4 and concentrated in vacuo to give a yellow solid. Recrystallizing from n-pentane gives a first crop of 8.40 g (mp 85°-86° C.) and a second crop of 4.45 g (mp 82.5°-84° C.). The total yield is 12.85 g (28.33 g theor., 45%).

reactant | methyloxalylchloride | 106.5 mmol, 13.6 g, 1.1 equiv. | COC(=O)C(=O)Cl | C3H3ClO3
reactant | AlCl3 | 106.5 mmol, 14.2 g, 1.1 equiv. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,6-di-t-butylphenol | 96.9 mmol, 20.0 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid, methyl ester | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)OC)=O | C17H24O4
